US20010027196A1
2-Amino-4-benzo[1,3]dioxol-5-yl-6-(3-phenyl-propylamino)-pyrimidine-5-carbonitrile
From 2-amino-4-benzo [1,3]dioxol-5-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile and 3-phenylpropylamine in DME. ES-MS m/e (%): 374 (M+H+, 100).

reactant | 2-amino-4-benzo [1,3]dioxol-5-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCO2)C=C1)C#N)S(=O)(=O)C | C13H10N4O4S
reactant | 3-phenylpropylamine | C1(=CC=CC=C1)CCCN | C9H13N
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-benzo[1,3]dioxol-5-yl-6-(3-phenyl-propylamino)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCO2)C=C1)C#N)NCCCC1=CC=CC=C1 | C21H19N5O2
